US08445493B2
3-(4-Benzyl-2-methylpiperazin-1-yl)-6-(4-fluorophenyl)-4,5-dimethylpyridazine
Treat a solution of 1-benzyl-4-(6-(4-fluorophenyl)-4,5-dimethylpyridazin-3-yl)-3-methylpiperazin-2-one (2.84 g, 7.02 mmol) in THF (70 mL) with borane-methyl sulfide complex (1.96 mL, 21.1 mmol). Heat the resulting mixture at 50° C. for 2 h. Cool the reaction mixture in an ice bath, add MeOH (20 mL) via a dropping funnel followed by 4 M HCl in 1,4-dioxane (20 mL). Heat the resulting mixture at 65° C. for 1 h. Concentrate the mixture under reduced pressure. Partition the residue between CH2Cl2 and saturated NaHCO3 (aq). Separate the layers, and extract the aqueous layer with CH2Cl2. Combine the organic layers, dry over Na2SO4, filter, and concentrate under reduced pressure. Purify the residue by flash silica gel chromatography (gradient of 0 to 3% 2 M NH3/MeOH in CH2Cl2) to afford the title compound as a waxy solid (2.45 g, 89%). ES/MS m/z 391.2 (M+1).

reactant | 1-benzyl-4-(6-(4-fluorophenyl)-4,5-dimethylpyridazin-3-yl)-3-methylpiperazin-2-one | 7.02 mmol, 2.84 g | C(C1=CC=CC=C1)N1C(C(N(CC1)C=1N=NC(=C(C1C)C)C1=CC=C(C=C1)F)C)=O | C24H25FN4O
reactant | MeOH | 20 mL | CO | CH4O
reactant | HCl | 4 M | Cl | ClH
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-(4-Benzyl-2-methylpiperazin-1-yl)-6-(4-fluorophenyl)-4,5-dimethylpyridazine | C(C1=CC=CC=C1)N1CC(N(CC1)C=1N=NC(=C(C1C)C)C1=CC=C(C=C1)F)C | C24H27FN4
